US07625889B2
Step 1: 3-(1H-Indol-5-yl)-benzaldehyde:
A mixture of 5-bromo-indole (8.7 g, 44.4 mmol), 3-formylbenzeneboronic acid (10 g, 66.7 mmol), cesium carbonate in water (2M, 88.8 mL, 178 mmol) in 450 mL of dioxane was degassed (evacuate in vacuo and pressurize with nitrogen, 3 times) PdCl2(dppf).DCM (1.1 g, 1.3 mmol) was added and the mixture degassed one more time as described above. The resulting mixture was heated at 100° C. for 3 h, then it was allowed to cool to room temperature and partitioned between diethyl ether and water. The aqueous phase was extracted with diethyl ether and the combined organic phases were washed with water, brine, dried over MgSO4, filtered and evaporated to give the crude product. Chromatography on silica gel (elution with ethyl acetate/heptane) afforded 5.6 g of the desired product.

reactant | 5-bromo-indole | 44.4 mmol, 8.7 g | BrC=1C=C2C=CNC2=CC1 | C8H6BrN
reactant | 3-formylbenzeneboronic acid | 66.7 mmol, 10 g | C(=O)C=1C=C(C=CC1)B(O)O | C7H7BO3
reactant | cesium carbonate | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | water | 178 mmol, 2M, 88.8 mL | O | H2O
reactant | DCM | 1.3 mmol, 1.1 g | C(Cl)Cl | CH2Cl2
solvent | dioxane | 450 mL | O1CCOCC1 | C4H8O2
product | 3-(1H-Indol-5-yl)-benzaldehyde | 5.6 g | N1C=CC2=CC(=CC=C12)C=1C=C(C=O)C=CC1 | C15H11NO
